US04492693
A solution of 5.15 g (29.4 mM) of DL N-allyloxycarbonyl-α-hydroxyglycine and 3.95 g (29.4 mM) of benzo[b]thiophene in 40 ml of trifluoroacetic acid was stirred at 22.5° C. for eighteen hours. The reaction mixture was then concentrated by evaporation under reduced pressure to given an oil, and the oil was dissolved in a mixture of 100 ml of ethyl acetate and 100 ml of water. The organic layer was separated, and the aqueous layer was extracted twice more with 50 ml portions of fresh ethyl acetate. The organic extracts were combined, washed with water, and then extracted twice with 100 ml portions of 10% aqueous sodium bicarbonate. The aqueous extracts were combined, added to 100 ml of fresh ethyl acetate, and acidified to pH 2.0 by the addition of conc. hydrochloric acid. The organic layer was separated and the aqueous acid layer was extracted with two 50 ml portions of fresh ethyl acetate. The organic portions were combined, dried, and the solvent was removed by evaporation to provide 7.55 g (88% yield) of N-allyloxycarbonyl-(3-benzothienyl)glycine.

reactant | N-allyloxycarbonyl-α-hydroxyglycine | C(C=C)OC(=O)NC(C(=O)O)O | C6H9NO5
reactant | benzo[b]thiophene | 29.4 mM, 3.95 g | S1C2=C(C=C1)C=CC=C2 | C8H6S
solvent | trifluoroacetic acid | 40 ml | FC(C(=O)O)(F)F | C2HF3O2
product | N-allyloxycarbonyl-(3-benzothienyl)glycine | 7.55 g, 88% yield | C(C=C)OC(=O)N(CC(=O)O)C1=CSC2=C1C=CC=C2 | C14H13NO4S
